US08030497B2
4-Bromo-2-(4-isopropyl-phenyl)-7-methoxy-1-(2-methoxy-ethyl)-1H-benzoimidazole-5-carbonitrile
A mixture of 110 mg (0.315 mmol) 2-(4-isopropyl-phenyl)-7-methoxy-1-(2-methoxy-ethyl)-1H-benzoimidazole-5-carbonitrile and 56 mg (0.315 mmol) N-bromosuccinimide in 5 ml acetonitrile is stirred at reflux for 3 h. Then the solvents are evaporated and the residue is purified by flash-chromatography on silica gel (hexane:EtOAc=3:1) and recrystallized from EtOAc/diethyl ether/hexane to afford 60 mg of the title compound as colorless crystals.

reactant | 2-(4-isopropyl-phenyl)-7-methoxy-1-(2-methoxy-ethyl)-1H-benzoimidazole-5-carbonitrile | 0.315 mmol, 110 mg | C(C)(C)C1=CC=C(C=C1)C1=NC2=C(N1CCOC)C(=CC(=C2)C#N)OC | C21H23N3O2
reactant | N-bromosuccinimide | 0.315 mmol, 56 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
product | 4-Bromo-2-(4-isopropyl-phenyl)-7-methoxy-1-(2-methoxy-ethyl)-1H-benzoimidazole-5-carbonitrile | 60 mg | BrC1=C(C=C(C=2N(C(=NC21)C2=CC=C(C=C2)C(C)C)CCOC)OC)C#N | C21H22BrN3O2
